2188-12-20 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2188-12-19**] 10:00 AM
 NON-INVASIVE VENTILATION - STOP [**2188-12-19**] 05:15 PM
 NON-INVASIVE VENTILATION - START [**2188-12-19**] 08:40 PM
   -when taken off of BIPAP overnight became tachycardic and increased RR
   so restarted.
   - Na 162 to 158
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-12-19**] 02:00 PM
   Piperacillin - [**2188-12-19**] 05:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-12-20**] 05:59 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2188-12-19**] 10:02 AM
   Heparin Sodium (Prophylaxis) - [**2188-12-20**] 02:03 AM
   Other medications:
   Methylprednisonlone
   ISS
   Albuterol neb
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-20**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 74 (74 - 131) bpm
   BP: 120/50(77) {95/37(57) - 138/65(95)} mmHg
   RR: 20 (20 - 34) insp/min
   SpO2: 98% (93-100%)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.4 kg (admission): 51.4 kg
             Total In:
                                                                  5,687 mL
                                                                  1,753 mL
   PO:
             TF:
   IVF:
                                                                  5,637 mL
                                                                  1,753 mL
   Blood products:
   Total out:
                                                                    430 mL
                                                                    148 mL
   Urine:
                                                                    430 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,257 mL
                                                                  1,605 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (404 - 724) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60% (50-60)%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.41/29/181/20/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Gen:  alert but largely unresponsive. Respodning occasionally to
   commands. Breathing comfortably on BIPAP
   HEENT:  MM dry, ? cataract on L. PERRLA.
   Heart:  S1S2 RRR
   Lungs:  coarse breath sounds  bilaterally
   Abdomen:  soft NTND
   Ext:  Dry gangrene in left lower extremity.  Dopplerable right DP.
   Neuro:  following commands occasionally, non-verbal.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   271 K/uL
   8.6 g/dL
   94 mg/dL
   3.6 mg/dL
   20 mEq/L
   3.8 mEq/L
   89 mg/dL
   128 mEq/L
   158 mEq/L
   28.5 %
   14.4 K/uL
        [image002.jpg]
   HCT: 37.6 to 32 to 28.5
   Na: 170 to 167 to 162 to 158 to 154
   .
   Blood [**12-19**], [**12-20**] pending
   Urine [**12-19**] pending
   CXR: LLL and RUL, RLL PNA vs aspiration.
                             [**2188-12-19**]  06:27 AM
                             [**2188-12-19**]  06:48 AM
                             [**2188-12-19**]  12:33 PM
                             [**2188-12-19**]  12:59 PM
                             [**2188-12-19**]  06:37 PM
                             [**2188-12-19**]  11:10 PM
                             [**2188-12-19**]  11:21 PM
                             [**2188-12-20**]  02:10 AM
                             [**2188-12-20**]  03:28 AM
   WBC
   15.8
   14.4
   Hct
   32.0
   28.5
   Plt
   309
   271
   Cr
   4.4
   3.8
   3.6
   TCO2
   23
   24
   15
   21
   19
   Glucose
   119
   88
   91
   167
   111
   94
   Other labs: PT / PTT / INR:17.1/28.0/1.5, ALT / AST:32/30, Alk Phos / T
   Bili:97/0.2, Differential-Neuts:90.1 %, Lymph:8.6 %, Mono:1.3 %,
   Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:199 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old lady with COPD, myasthenia [**Last Name (un) 1209**], dementia presented with
   respiratory distress and hypernatremia.
   .
   # Hypernatremia:  Most likely secondary to dehydration.  Pneumonia, UTI
   and hyperglycemia are contributing to this.  Need to correct it slowly
   , in first 24 hrs decreased from 170 to 158.
   - continue D5W at 75 ml/hour
   - serum Na q4h
   - appreciate nephrology recs
   .
   # Pneumonia:  Leukocytosis and bandemia.  Elevated lactate.  Aspiration
   vs. Nursing home acquired PNA.
   - CXR ordered
   - BCx ordered
   - will continue vanc/zosyn
   -[**2-16**] renal failure ordering vanco doses 1 at a time, with trough after
   each dose.
   .
   # UTI: UA consistent with UTI.
   - Abx as above.
   - UCx
   .
   # ARF: Unclear baseline.  Baseline Cr  in 1s?  Most liekly prerenal.
   - IVF as above
   - appreciate nephrology recs
   -monitor UOP
   .
   # COPD:  History of COPD.  ? home oxygen.
   - will continue solumedrol at reduced dose ( 40  IV daily)
   .
   # Hyperglycemia:  Known DM2.  Most likely in the setting of stress
   (infection, respiratory distress) and steroids
   - ISS, reluctant to increase scale given decrease in steroid dose.
   .
   # lower extremity dry gangrene:  Patient has neuropathy and DM2.  Long
   term problem per family.
   - wound care
   .
   # FEN:  NPO for now as unable to eat with frequent BIPAP, replete lytes
   prn. Disucuss with family option to feed with known aspiration risk
   once off BIPAP
   .
   # PPx:  sc heparin
   .
   # Contact:  son, [**Name (NI) 82**] [**Name2 (NI) **] [**Telephone/Fax (1) 3057**]
   Nursing Home: [**First Name4 (NamePattern1) 3058**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 3059**]
   .
   # Code: switched to DNR/DNI, confirmed with son, HCP, [**Name (NI) 82**] [**Name (NI) 3056**]
   .
   # Dispo: ICU level of care for now.  Needs to talk with PCP and family
   regarding goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-12-19**] 10:00 AM
   18 Gauge - [**2188-12-19**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2188-12-21 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2188-12-20**] 10:19 AM
   - tolerated mask oxygen for most of day
   -Na corrected from 170 to 150.
   - Cr downtrending and UO increasing
   -Increased ISS
   -methylprednisolone at 40 IV daily
   - soft restraints, graping at mask
   -family planing to move towards hospise
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-12-20**] 05:59 AM
   Piperacillin - [**2188-12-20**] 06:00 PM
   Vancomycin - [**2188-12-20**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-12-21**] 02:00 AM
   Other medications:
   ISS
   ipratropium
   Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-12-21**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 78 (63 - 86) bpm
   BP: 144/58(92) {87/37(55) - 144/58(92)} mmHg
   RR: 20 (8 - 22) insp/min
   SpO2: 99% (96-100)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.4 kg (admission): 51.4 kg
             Total In:
                                                                  5,729 mL
                                                                    895 mL
   PO:
             TF:
   IVF:
                                                                  5,729 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                    908 mL
                                                                    360 mL
   Urine:
                                                                    908 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,821 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 804 (687 - 804) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   Currently on 3L NC
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///15/
   Ve: 13.4 L/min
   Physical Examination
   Gen:  alert and talking, not oriented. Respodning occasionally to
   commands. Breathing comfortably on  NC
   HEENT:  MM dry, ? cataract on L. PERRLA. Thrussh
   Heart:  S1S2 RRR
   Lungs:  coarse breath sounds  bilaterally, crackles at bl bases
   Abdomen:  soft NTND
   Ext:  Dry gangrene in left lower extremity.  Dopplerable right DP. No
   peripheral edema
   Neuro:  following commands occasionally, talking, more alert
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   8.5 g/dL
   178 mg/dL
   3.0 mg/dL
   15 mEq/L
   3.8 mEq/L
   72 mg/dL
   125 mEq/L
   152 mEq/L
   27.5 %
   15.0 K/uL
         [image002.jpg]
   HCT: 32 to 28.5 to 27.5
   NA: 158 to 154 to 150 to 152 to 153
   Cr 3.6 to 3.2 to 3.2 to 3.0
   Vanco level 27.2
   Blood [**12-19**], [**12-20**] pending
   [**12-19**] urine pending
   CXR: multifocal PNA, stable, no edema
                             [**2188-12-19**]  12:33 PM
                             [**2188-12-19**]  12:59 PM
                             [**2188-12-19**]  06:37 PM
                             [**2188-12-19**]  11:10 PM
                             [**2188-12-19**]  11:21 PM
                             [**2188-12-20**]  02:10 AM
                             [**2188-12-20**]  03:28 AM
                             [**2188-12-20**]  05:52 PM
                             [**2188-12-20**]  09:55 PM
                             [**2188-12-21**]  03:04 AM
   WBC
   15.8
   14.4
   15.0
   Hct
   32.0
   28.5
   27.5
   Plt
   [**Telephone/Fax (3) 3120**]
   Cr
   4.4
   3.8
   3.6
   3.2
   3.2
   3.0
   TCO2
   24
   15
   21
   19
   Glucose
   88
   91
   167
   111
   94
   203
   178
   Other labs: PT / PTT / INR:15.1/24.0/1.3, ALT / AST:32/30, Alk Phos / T
   Bili:97/0.2, Differential-Neuts:90.1 %, Lymph:8.6 %, Mono:1.3 %,
   Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:199 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old lady with COPD, myasthenia [**Last Name (un) 1209**], dementia presented with
   respiratory distress and hypernatremia.
   .
   # Hypernatremia:  Most likely secondary to dehydration.  Pneumonia, UTI
   and hyperglycemia are contributing to this.  Need to correct it slowly
   , in first 24 hrs decreased from 170 to 158. Overnight the pace of
   correction has slowed, now plateaued in low 150s. Clinically much
   improved, less obtunded.  I/O positive 4800 yesterday.
   - continue D5
 NS at 150 ml/hour to complete 3 L this afternoon.
   Redraw NA and reaccess fluids with renal at that time
   - serum Na q4h
   - appreciate nephrology recs
   .
   # Pneumonia:  Leukocytosis and bandemia.  Elevated lactate.  Aspiration
   vs. Nursing home acquired PNA. CXR consistant with aspiration PNA.
   Blood cultures pending. Respiratory status greatly improved, oxygen
   requirement decreased with vanco and zyosyn.
   - f/u blood cult
   - will continue vanc/zosyn
   -[**2-16**] renal failure ordering vanco doses 1 at a time, with trough after
   each dose.
   .
   # UTI: UA consistent with UTI.  However Urine culture with no growth so
   far
   - Abx as above.
   - f/u UCx
   .
   # ARF: Unclear baseline.  Baseline Cr  in 1s?  Most likely prerenal.
   UOP increasing and Cr steadally improving to 3.0
   - IVF as above
   - appreciate nephrology recs
   -monitor UOP
   .
   # COPD:  History of COPD.  ? home oxygen. Was originally on solumedrol
   125 IV and titrated down yesterday.
   - d/c  solumedrol ( 40  IV daily) as COPD exacerbation unlikely, not
   wheezing.
   .
   # Hyperglycemia:  Known DM2.  Most likely in the setting of stress
   (infection, respiratory distress) and steroids
   - ISS, increased ISS and added standing low dose glargine in setting of
   BG presistantly in mid to upper 200s.
   -Will need to trend sugars as steroids are stopped and depending on
   further dextrose in IVF.
   - If BG improved consider d/c glargine or decreased ISS to prevent
   hypoglycemia.
   .
   # lower extremity dry gangrene:  Patient has neuropathy and DM2.  Long
   term problem per family.
   - wound care
   .
   # FEN:  NPO for now as high aspiration risk, replete lytes prn.
   Disucussed  with family option to feed with known aspiration risk vs no
   further nutrition. Family responable and had started hospice care
   discussion prior to this hospitalization. Would benefit from palliative
   care, SW after transferred out of ICU.
   .
   # PPx:  sc heparin
   .
   # Contact:  son, [**Name (NI) 82**] [**Name2 (NI) **] [**Telephone/Fax (1) 3057**]
   Nursing Home: [**First Name4 (NamePattern1) 3058**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 3059**]
   .
   # Code: switched to DNR/DNI, confirmed with son, HCP, [**Name (NI) 82**] [**Name (NI) 3056**]
   .
   # Dispo: Call out to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2188-12-19**] 10:00 AM
   18 Gauge - [**2188-12-19**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: